US07592373B2
2.1.d. Propynoic acid-biphenyl-4-ylamide
9.38 g (45.5 mmol) of DCC are added batchwise to a solution of 2.89 g (41.36 mmol) of propynoic acid in 100 mL dichloromethane at −15° C. and stirred for 1 hour. Then a solution of 7 g (41.36 mmol) of biphenyl-4-ylamine-15° C. is added dropwise to 30 mL dichloromethane and stirred for 2 hours. After this time, the cooling bath is removed and the reaction mixture is allowed to come up to ambient temperature. 20 g of CELITE® filter aid is added to the reaction mixture and it is then filtered. The filtrate is evaporated down in vacuo. The residue is combined with acetonitrile and stirred. The suspension is filtered, the filtrate is evaporated down and the residue is stirred with petroleum ether and pentane. The solid is isolated by filtration. Yield: 5.5 g (60.1% of theory); C15H11NO (M=221.26); calc.: molecular ion peak (M+H)+: 222; found: molecular ion peak (M+H)+: 222; Rf value: 0.7 (silica gel, dichloromethane/methanol (10:1)).

reactant | DCC | 45.5 mmol, 9.38 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | propynoic acid | 41.36 mmol, 2.89 g | C(C#C)(=O)O | C3H2O2
reactant | biphenyl-4-ylamine | 41.36 mmol, 7 g | C1(=CC=C(C=C1)N)C1=CC=CC=C1 | C12H11N
reactant | dichloromethane methanol | ClCCl.CO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | Propynoic acid-biphenyl-4-ylamide | C1(=CC=C(C=C1)NC(C#C)=O)C1=CC=CC=C1 | C15H11NO
